US04352808
Suspend 3-bromo-7-chlorothiochroman-4-one (59.6 gms., 215 mmols) in methanol (500 ml.), cool to 0.5° C., and with stirring add sodium borohydride (8.18 gms., 215 mmols) in three portions. Continue stirring the reaction mixture at room temperature for three hours, then pour into ice water (4 liters) and extract with chloroform (2 liters). Dry the chloroform solution over anhydrous magnesium sulfate, filter and evaporate in vacuo to a residue. Triturate the residue with chloroform/hexane to give 3-bromo-7-chlorothiochroman-4-ol, m.p. 141°-142° C.

reactant | 3-bromo-7-chlorothiochroman-4-one | 215 mmols, 59.6 gms | BrC1CSC2=CC(=CC=C2C1=O)Cl | C9H6BrClOS
reactant | sodium borohydride | 215 mmols, 8.18 gms | [BH4-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | 3-bromo-7-chlorothiochroman-4-ol | BrC1CSC2=CC(=CC=C2C1O)Cl | C9H8BrClOS
